US09334290B2
A mixture of sodium 2-(3-fluoropyridin-2-yl)acetate (1.847 g, 10.37 mmol), 3-bromo-2-methylaniline (1.41 mL, 11.4 mmol), DIEA (5.4 mL, 31.1 mmol) and HATU (4.73 g, 12.4 mmol) in DMF (30 mL) was stirred at room temperature for 1.25 h. The mixture was diluted with EtOAc and washed twice with 10% aqueous LiCl, then with brine. The combined aqueous layers were extracted with EtOAc, and the combined organic phases were dried and concentrated. The residue was dissolved in hot EtOAc, allowed to cool, and the resulting white solid collected by filtration and washed with 60% EtOAc-hexanes. The combined filtrates were concentrated and the residue was recrystallized twice using the same procedure. The residue from concentration of the final filtrate was purified by column chromatography on silica gel, eluting with EtOAc-hexanes, to provide a solid which was combined with the recrystallized batches to provide N-(3-bromo-2-methylphenyl)-2-(3-fluoropyridin-2-yl)acetamide as a white solid (2.03 g, 61% yield). Mass spectrum m/z 323, 325 (M+H)+.

reactant | sodium 2-(3-fluoropyridin-2-yl)acetate | 10.37 mmol, 1.847 g | FC=1C(=NC=CC1)CC(=O)[O-].[Na+]
reactant | 3-bromo-2-methylaniline | 11.4 mmol, 1.41 mL | BrC=1C(=C(N)C=CC1)C | C7H8BrN
reactant | DIEA | 31.1 mmol, 5.4 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 12.4 mmol, 4.73 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(3-bromo-2-methylphenyl)-2-(3-fluoropyridin-2-yl)acetamide | 2.03 g, 61% yield | BrC=1C(=C(C=CC1)NC(CC1=NC=CC=C1F)=O)C | C14H12BrFN2O
